* C:\Users\benja\Downloads\2024\TCII\TS1\Simulacion LTspice.asc
R1 N001 V1 1
R2 V2 N001 1
R3 0 N002 1
C1 N002 V1 1
V1 V1 0 AC 1
XU1 N002 N001 Vcc Vee V2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 Vcc 0 15
V3 0 Vee 15
.ac dec 1000 0.001 10k
.lib UniversalOpAmp1.lib
.backanno
.end
