* C:\Users\benja\Downloads\TS4\circuito simulación T desnormalizado.asc
R1 N001 Vin 1
V1 Vin 0 AC 1
XU1 N001 0 Vo1 opamp Aol=100K GBW=10Meg
R2 Vo1 N001 2.59
C1 Vo1 N001 530µ
XU2 N006 0 N007 opamp Aol=100K GBW=10Meg
XU3 N008 0 Vo2 opamp Aol=100K GBW=10Meg
R3 N006 N004 0.664
R4 N008 N007 0.391
R5 Vo2 N002 2.02
R6 N004 N002 0.664
R7 N012 Vo1 1
R8 N007 N012 1
C2 N007 N006 849µ
C3 Vo2 N008 849µ
XU4 N002 N012 N004 opamp Aol=100K GBW=10Meg
XU5 N009 0 N010 opamp Aol=100K GBW=10Meg
XU6 N011 0 Vo3 opamp Aol=100K GBW=10Meg
R9 N009 N005 7.576
R10 N011 N010 0.125
R11 Vo3 N003 7.576
R12 N005 N003 7.576
R13 N013 Vo2 7.576
R14 N010 N013 0.799
C4 N010 N009 530µ
C5 Vo3 N011 530µ
XU7 N003 N013 N005 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.ac dec 1000 1 10k
.backanno
.end
