* C:\Users\benja\Downloads\2024\TCII\TS3\simulacion_RCO_normalizado_LTspice.asc
R1 N001 Vi 1
R2 N003 N001 1
R3b N006 N003 1
R4a N005 N004 1
R4b N002 N005 1
R3a N002 N001 1
XU1 N001 0 N003 opamp Aol=100K GBW=10Meg
XU2 0 N006 N002 opamp Aol=100K GBW=10Meg
XU3 N005 0 N004 opamp Aol=100K GBW=10Meg
C1b N004 N006 0.798
C1a N003 N001 0.798
Vi Vi 0 AC 1
R5 Vo N002 1
C2 Vo 0 0.798
.lib opamp.sub
.ac dec 10000 0.001 100
.backanno
.end
