* C:\Users\benja\Downloads\2024\TCII\TS3\simulacion_RLC_desnormalizado_LTspice.asc
XU1 N001 N003 N001 opamp Aol=100K GBW=10Meg
R2 Vi N002 847
L1 N002 N003 71.746m
C2 N003 0 100n
R1 Vo N001 847
C1 Vo 0 100n
V1 Vi 0 AC 1
.lib opamp.sub
.ac dec 1000 1 100k
.backanno
.end
